US07166635B2
1-(4-ISOPROPOXYPHENYL)-1H-INDOLE-2,3-DIONE:
A solution of triethylamine (28 g, 272 mmol) in CH2Cl2 (250 mL) was added to a mixture of 1H-indole-2,3-dione (10.0 g, 68 mmol), 4-isopropoxyphenylboronic acid (13.4 g, 75 mmol) and copper (II) acetate (5.0 g, 27 mmol) and the reaction mixture was stirred at room temperature for 16 hours. The crude mixture was then treated with 1M HCl (3×350 mL), followed by aqueous saturated NaHCO3 solution (3×350 mL). The resulting organic faction was concentrated in vacuo and the residue was dissolved in CH2Cl2, dried over MgSO4, concentrated in vacuo, and re-suspended in CH2Cl2. The suspension was filtered and the filtrate was concentrated in vacuo. The crude product was recrystallized from a mixture of toluene/hexane (3:1), giving the desired product (7.6 g, 27 mmol).

reactant | triethylamine | 272 mmol, 28 g | C(C)N(CC)CC | C6H15N
reactant | 1H-indole-2,3-dione | 68 mmol, 10.0 g | N1C(C(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | 4-isopropoxyphenylboronic acid | 75 mmol, 13.4 g | C(C)(C)OC1=CC=C(C=C1)B(O)O | C9H13BO3
reactant | HCl | 1M, 350 mL | Cl | ClH
reactant | NaHCO3 | 350 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 27 mmol, 5.0 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(4-ISOPROPOXYPHENYL)-1H-INDOLE-2,3-DIONE | 27 mmol, 7.6 g | C(C)(C)OC1=CC=C(C=C1)N1C(C(C2=CC=CC=C12)=O)=O | C17H15NO3
